### PR TITLE
[Merged by Bors] - feat(Algebra/Order/Hom/Monoid): order iso versions of unitsWithZero and friends

### PR DESCRIPTION
**Pull request by pechersky**
---

- [x] depends on: #22402

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Order/Hom/Monoid.lean [hunk 1]
```diff
@@ -944,3 +944,14 @@ end OrderMonoidWithZeroHom
 def OrderMonoidIso.unitsWithZero {α : Type*} [Group α] [Preorder α] : (WithZero α)ˣ ≃*o α where
   toMulEquiv := WithZero.unitsWithZeroEquiv
   map_le_map_iff' {a b} := by simp [WithZero.unitsWithZeroEquiv]
+
+/-- A version of `Equiv.optionCongr` for `WithZero` on `OrderMonoidIso`. -/
+@[simps!]
+def OrderMonoidIso.withZero {G H : Type*}
+    [CommGroup G] [PartialOrder G] [CommGroup H] [PartialOrder H] :
```
Comment (faenuccio) [inline Mathlib/Algebra/Order/Hom/Monoid.lean:951]: Not at my computer now, but do you need commutativity?

File: Mathlib/GroupTheory/ArchimedeanDensely.lean [hunk 2]
```diff
@@ -256,6 +256,16 @@ lemma denselyOrdered_units_iff {G₀ : Type*} [LinearOrderedCommGroupWithZero G
     refine ⟨Units.mk0 z hz'.ne', ?_⟩
     simp [← Units.val_lt_val, hz]
 
+/-- Any linearly ordered group with zero is isomorphic to adjoining `0` to the units of itself. -/
+@[simps!]
+def OrderMonoidIso.withZeroUnits {α : Type*} [LinearOrderedCommGroupWithZero α]
```
Comment (faenuccio) [inline Mathlib/GroupTheory/ArchimedeanDensely.lean:261]: Is commutativity needed?

File: Mathlib/Algebra/GroupWithZero/WithZero.lean [hunk 3]
```diff
@@ -267,27 +269,23 @@ def withZeroUnitsEquiv {G : Type*} [GroupWithZero G]
...
-  left_inv _ := by simp
-  right_inv _ := by simp
-  map_mul' _ _ := by
-    simp only [coe_mul, map_mul]
-    generalize_proofs A B C
-    suffices ((unzero A : β) : WithZero β) = (unzero B) * (unzero C) by
-      rwa [← WithZero.coe_mul, WithZero.coe_inj] at this
-    simp
+@[simps!]
+def _root_.MulEquiv.withZero [Group β] :
```
Comment (faenuccio) [inline Mathlib/Algebra/GroupWithZero/WithZero.lean:273]: I appreciate bundling the two directions together, but I would add an `alias` to the `symm` direction allowing the `unzero` version to survive, because it resonates with many other parts of the library.

File: Mathlib/Algebra/Order/Hom/Monoid.lean (hunk 1 above)
Comment (pechersky) [reply Mathlib/Algebra/Order/Hom/Monoid.lean:951]: No, will remove.

File: Mathlib/GroupTheory/ArchimedeanDensely.lean (hunk 2 above)
Comment (pechersky) [reply Mathlib/GroupTheory/ArchimedeanDensely.lean:261]: Yes, there is no linear ordered not-necessarily-comm group with zero.

File: Mathlib/Algebra/GroupWithZero/WithZero.lean [hunk 4]
```diff
@@ -267,27 +269,28 @@ def withZeroUnitsEquiv {G : Type*} [GroupWithZero G]
...
-    WithZero α ≃* WithZero β where
-  toFun := map' e.toMonoidHom
-  invFun := map' e.symm.toMonoidHom
-  left_inv := (by induction · <;> simp)
-  right_inv := (by induction · <;> simp)
-  map_mul' := (by induction · <;> induction · <;> simp)
+@[simps!]
+def _root_.MulEquiv.withZero [Group β] :
+    (α ≃* β) ≃ (WithZero α ≃* WithZero β) where
+  toFun e := ⟨⟨map' e, map' e.symm, (by induction · <;> simp), (by induction · <;> simp)⟩,
```
Comment (faenuccio) [inline Mathlib/Algebra/GroupWithZero/WithZero.lean:275]: What is going on? Why is the proof becoming much longer than before?

Comment (pechersky) [reply Mathlib/Algebra/GroupWithZero/WithZero.lean:275]: Which proof? This is now an equiv of equivs, while before it was a construction of just one equiv. So the body of the previous construction is entirely inlined into toFun.

Comment (faenuccio) [reply Mathlib/Algebra/GroupWithZero/WithZero.lean:275]: Oh sure, thanks! Forget my previous message, and sorry for the noise.

File: Mathlib/Algebra/GroupWithZero/WithZero.lean [hunk 5]
```diff
@@ -267,27 +269,28 @@ def withZeroUnitsEquiv {G : Type*} [GroupWithZero G]
...
+  invFun e := ⟨⟨
+    fun x ↦ unzero (x := e x) (by simp [ne_eq, ← e.eq_symm_apply]),
+    fun x ↦ unzero (x := e.symm x) (by simp [e.symm_apply_eq]),
+    by intro; simp, by intro; simp⟩, by
+      intro _ _
+      simp only [coe_mul, map_mul]
+      generalize_proofs A B C
+      suffices ((unzero A : β) : WithZero β) = (unzero B) * (unzero C) by
+        rwa [← WithZero.coe_mul, WithZero.coe_inj] at this
+      simp⟩
```
Comment (j-loreaux) [inline Mathlib/Algebra/GroupWithZero/WithZero.lean]:
```suggestion
    by intro; simp, by intro; simp⟩,
    by intro; simp [← coe_inj]⟩
```

**Review by j-loreaux — APPROVED** [review]
Thanks!

bors d+
